US09163020B2
N-(2-fluoroethyl)-1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxamide
See FIG. 16(c). 1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid (250 mg, 0.84 mmol) was taken in a 100 ml single necked flask equipped with an air condenser connected to nitrogen source. DCM (10 mL) was added to get a suspension. Triethyl amine (1.162 mL, 8.38 mmol) was added to get a clear solution. 1-Propanephosphonic acid cyclic anhydride (1.497 mL, 2.51 mmol) was added followed by the addition of 2-fluoroethanamine hydrochloride (83 mg, 0.84 mmol). The reaction mass was stirred at RT for overnight, suspension was observed. After completion of the reaction, diluted with DCM, added water, and separated the DCM layer washed with brine solution. The DCM layer was dried over sodium sulphate, evaporated and purified the compound by column chromatography. Yield-52%. ES+MS m/z: 344 (M+1). 1H NMR (300 MHz, DMSO-d6) δ ppm 2.25 (s, 20 H) 3.67 (d, J=5.46 Hz, 7 H) 3.77 (d, J=5.46 Hz, 7 H) 4.50 (t, J=4.90 Hz, 7 H) 4.66 (t, J=4.99 Hz, 7 H) 5.69 (s, 13 H) 7.26 (dd, J=8.29, 4.71 Hz, 7 H) 7.94 (d, J=8.48 Hz, 7 H) 8.28 (s, 7 H) 8.41 (s, 6 H) 8.49 (d, J=4.52 Hz, 7 H) 8.95 (t, J=5.84 Hz, 7 H).

reactant | 1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid | 0.84 mmol, 250 mg | COC1=C(C(=NC=N1)CN1C=C(C2=NC=CC=C21)C(=O)O)C | C15H14N4O3
reactant | Triethyl amine | 8.38 mmol, 1.162 mL | C(C)N(CC)CC | C6H15N
reactant | 1-Propanephosphonic acid cyclic anhydride | 2.51 mmol, 1.497 mL | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
reactant | 2-fluoroethanamine hydrochloride | 0.84 mmol, 83 mg | Cl.FCCN
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-(2-fluoroethyl)-1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxamide | Yield-52% | FCCNC(=O)C1=CN(C=2C1=NC=CC2)CC2=NC=NC(=C2C)OC | C17H18FN5O2
